US07812045B2
(2R,3R)-3-(5-((4-chlorobenzyl)(ethyl)amino)-1H-indazol-2-yl)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol
To a solution of (2R,3R)-3-(5-(4-chlorobenzylamino)-1H-indazol-2-yl)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol (0.043 g, 0.08 mmol), prepared in Example 244, in N,N′-dimethylformamide (0.5 ml) was added diisopropylethylamine (0.015 ml, 0.08 mmol), followed by stirring for 30 min. The reaction solution was further stirred at 80° C. for 18 hours after the addition of bromoethane (0.019 ml, 0.17 mmol) thereto. The reaction product was diluted with ethyl acetate (10 ml) and washed with saturated ammonium chloride solution (10 ml), and then with brine (10 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated using vacuum evaporation. The crude product was purified by chromatography on silica gel to give the title compound.

reactant | (2R,3R)-3-(5-(4-chlorobenzylamino)-1H-indazol-2-yl)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | 0.08 mmol, 0.043 g | ClC1=CC=C(CNC=2C=C3CN(NC3=CC2)[C@@H]([C@@](CN2N=CN=C2)(O)C2=C(C=C(C=C2)F)F)C)C=C1 | C26H25ClF2N6O
reactant | diisopropylethylamine | 0.08 mmol, 0.015 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoethane | 0.17 mmol, 0.019 ml | BrCC | C2H5Br
solvent | N,N′-dimethylformamide | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-3-(5-((4-chlorobenzyl)(ethyl)amino)-1H-indazol-2-yl)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | ClC1=CC=C(CN(C=2C=C3CN(NC3=CC2)[C@@H]([C@@](CN2N=CN=C2)(O)C2=C(C=C(C=C2)F)F)C)CC)C=C1 | C28H29ClF2N6O
